US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-isopropyl-5-(2-thienyl)isoxazol
3-Hydroxy-4-isopropyl-5-(2-thienyl)isoxazole (209 mg) and 2-(N-tert-butoxycarbonylamino)ethanol (193 mg) were subjected to reaction and post-treatment in a similar manner to that described in Example 1(a) to obtain the title compound (301 mg, 86%) as colorless crystals.

reactant | 3-Hydroxy-4-isopropyl-5-(2-thienyl)isoxazole | 209 mg | OC1=NOC(=C1C(C)C)C=1SC=CC1 | C10H11NO2S
reactant | 2-(N-tert-butoxycarbonylamino)ethanol | 193 mg | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-isopropyl-5-(2-thienyl)isoxazol | 301 mg, 86% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1C(C)C)C=1SC=CC1 | C17H24N2O4S
